US07446199B2
Step C: 6-Chloro-1H-pyrrolo[2,3-b]pyridine
To a solution of 6-Chloro-pyrrolo[2,3-b]pyridine-1-carboxylic acid ethyl ester (400 mg, 1.78 mmol) in MeOH (35 mL) was added 1N NaOH (13 mL). The solution was stirred at RT for 6 h and evaporated the solvent. The residue was neutralized with sat. NaHCO3 and the resulting precipitate was collected by filtration. After washing with water, the solid was dried on the pump for direct use (260 mg, 1.71 mmol, 96%). MS (ES+): m/e=153.1 (M+H); LC: 2.85 min.

reactant | 6-Chloro-pyrrolo[2,3-b]pyridine-1-carboxylic acid ethyl ester | 1.78 mmol, 400 mg | C(C)OC(=O)N1C=CC=2C1=NC(=CC2)Cl | C10H9ClN2O2
reactant | NaOH | 1N, 13 mL | [OH-].[Na+]
solvent | MeOH | 35 mL | CO | CH4O
product | 6-Chloro-1H-pyrrolo[2,3-b]pyridine | ClC1=CC=C2C(=N1)NC=C2 | C7H5ClN2
